* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=7.37946203395e-12
.param C2=4.50005506076e-11
.param Csh=2.2908864031e-11
.param L1=6.21121868006e-07
.param Vsrc_amp=425.683640079
.param ne=4.31245854027e+14
.param nu_m=62672450.6221

* Sources
Vsrc src 0 SIN(0 425.683640079 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 16.0877813526
Lbulk nb ns 2.56696222868e-07
Csh ns n 2.2908864031e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
